US06358972B1
2-Methoxy-5-Nitro-6-(2-Dimethylaminoethen-1-yl)pyridine
To 2-methoxy-5-nitro-6-methylpyridine (29.39 g, 175 mmol) dissolved in 300 mL of N,N-dimethylformamide was added dimethylformamide dimethylacetal (120 mL, 896 mmol) and triethylamine (1 mL). The bright red reaction mixture was heated at 120° C. for 2 hours, then concentrated in vacuo to provide 38.90 g of the title compound as a red solid, which was used in Preparation 13 without further purification.

reactant | 2-methoxy-5-nitro-6-methylpyridine | 175 mmol, 29.39 g | COC1=NC(=C(C=C1)[N+](=O)[O-])C | C7H8N2O3
reactant | dimethylformamide dimethylacetal | 896 mmol, 120 mL | COC(N(C)C)OC | C5H13NO2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 2-Methoxy-5-Nitro-6-(2-Dimethylaminoethen-1-yl)pyridine | 38.90 g | COC1=NC(=C(C=C1)[N+](=O)[O-])C=CN(C)C | C10H13N3O3
